US04649144
3-Amino-1-benzyl-4-methylpyrrolidine (Japanese Laid-Open Patent Publication No. 22699/1980) was allowed to react with acetic anhydride to give 3-acetylamino-1-benzyl-4-methylpyrrolidine; IR 3300, 1650 cm-1. This compound was hydrogenated catalytically in the presence of 5% palladium-carbon to give 3-acetylamino-4-methylpyrrolidine as an oil.

reactant | 3-Amino-1-benzyl-4-methylpyrrolidine | NC1CN(CC1C)CC1=CC=CC=C1 | C12H18N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetylamino-1-benzyl-4-methylpyrrolidine | C(C)(=O)NC1CN(CC1C)CC1=CC=CC=C1 | C14H20N2O
